US06982348B2
2) (2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methanol
To a solution of lithium aluminum hydride (1.40 g, 36.89 mmol) in tetrahydrofuran (30 ml) was gradually added 2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxine-6-carboxylic acid (4.65 g, 18.44 mmol) at 0° C. After the reaction solution was stirred at 0° C. for 10 min., 1N aqueous sodium hydroxide solution was added. Insoluble material was filtered off with celite and the filtrate was concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give the objective substance (3.54 g, 81%).

reactant | lithium aluminum hydride | 36.89 mmol, 1.40 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxine-6-carboxylic acid | 18.44 mmol, 4.65 g | FC1(C(OC2=C(O1)C=CC(=C2)C(=O)O)(F)F)F | C9H4F4O4
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methanol | FC1(C(OC2=C(O1)C=CC(=C2)CO)(F)F)F | C9H6F4O3
